US09233920B2
Preparation of 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester
Alternatively, the title compound can be obtained by carrying out the following experiment: To a vigorously stirred solution of 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester (150 mg) in ethanol (9 mL) was added Raney Nickel (1.44 g, 50% suspension in water, previously washed with dry ethanol) and the reaction was stirred at room temperature under hydrogen (1 atm) for 2 hours then under arong overnight. Then the solution was filtered over celite, and the resulting filtrate was concentrated in vacuo to give the title compound (138 mg) as a pale yellow oil. The crude product was purified by flash chromatography (15% dichloromethane in ethyl acetate) to afford 4-[(R)-4-(3,5-dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester as a pale yellow oil (0.070 g). Chiral HPLC analysis (Chiralpack IA, Heptane:2-propanol:diethylamine=90:10:0.1, 1 ml/min, retention time 5.93 minutes (major enantiomer), 8.57 minutes (minor enantiomer).

reactant | 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@@](C(F)(F)F)(C1=CC(=CC(=C1)Cl)Cl)C#N)=O)C)=O | C23H20Cl2F3NO3
solvent | ethanol | 9 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
product | 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester | 138 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NC[C@](C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C23H22Cl2F3NO2
